US06489487B1
To a solution of 4.33 g (14.6 mmol) of triphosgene in 15 ml of methylene chloride was added dropwise a solution of 2.07 g (7.30 mmol) of 1,1-dimethyl-4-{1-(3-phenylphenyl)ethyl}semicarbazide (produced in the following Reference Production Example 7) in 20 ml of methylene chloride with ice-cooling. The mixture was removed from an ice bath, warmed to room temperature and heated under reflux for 4 hours. After allowing to cool to room temperature, the reaction mixture was poured into 150 ml of an about 5% aqueous solution of sodium bicarbonate, and the mixture was stirred for 1 hour. The organic layer was washed with water, dried and concentrated. The residue (1.93 g) was subjected to silica gel column chromatography (eluted with n-hexane:ethyl acetate=10:1 and then 5:1 and then 3:1) to obtain 418 mg (1.33 mmol) of 5-chloro-2-methyl-4-{1-(3-phenylphenyl)ethyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 12 of the present invention) as an oil.

reactant | triphosgene | 14.6 mmol, 4.33 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1,1-dimethyl-4-{1-(3-phenylphenyl)ethyl}semicarbazide | 7.30 mmol, 2.07 g | CN(NC(=O)NC(C)C1=CC(=CC=C1)C1=CC=CC=C1)C | C17H21N3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-methyl-4-{1-(3-phenylphenyl)ethyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 1.33 mmol, 418 mg | ClC=1N(C(N(N1)C)=O)C(C)C1=CC(=CC=C1)C1=CC=CC=C1 | C17H16ClN3O
